US06716851B2
4-(2-Ethylsulfonyl-5-hydroxyanilino)-2-(2-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyridinyl)-6-trifluoromethylpyrimidine (40 mg, 0.154 mmol) and 2-ethylsulfonyl-5-hydroxyaniline (46 mg, 0.231 mmol) similar to Example 186 and was isolated as a yellow solid (35 mg, 54%). 1H NMR (CDCl3): 8.88 (s, 1H), 8.60 (brt, 2H), 8.01 (t, 1H), 7.52 (m, 2H), 7.01 (m, 2H), 3.02 (q, 2H), 1.22 (t, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-trifluoromethylpyrimidine | 0.154 mmol, 40 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 2-ethylsulfonyl-5-hydroxyaniline | 0.231 mmol, 46 mg | C(C)S(=O)(=O)C1=C(N)C=C(C=C1)O | C8H11NO3S
product | 4-(2-Ethylsulfonyl-5-hydroxyanilino)-2-(2-pyridinyl)-6-trifluoromethylpyrimidine | C(C)S(=O)(=O)C1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=C(C=C1)O | C18H15F3N4O3S
